US05665753
a) (1S)-1-t-butoxycarbonylamino-1-isopropyl-1-(imidazol-2-yl)methane
A solution of (1S)-1-(imidazol-2-yl)-2-methylpropylamine (330 mg, 2.37 mmole) and di-t-butylpyrocarbonate (1.04 g, 4.75 mmole) in MeOH (5ml) was stirred for 48 h. The reaction was diluted with MeOH (5ml), treated with 2.5N NaOH (2 ml), and stirred for 0.5 h. The reaction was diluted with H2O (20 ml), extracted with Et2O, the extracts were washed with H2O, dried (MgSO4), and the solvent evaporated to afford the title compound (462 mg, 82%).

reactant | (1S)-1-(imidazol-2-yl)-2-methylpropylamine | 2.37 mmole, 330 mg | N1C(=NC=C1)[C@H](C(C)C)N | C7H13N3
reactant | di-t-butylpyrocarbonate | 4.75 mmole, 1.04 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 2.5N, 2 ml | [OH-].[Na+]
solvent | MeOH | 5ml | CO | CH4O
solvent | MeOH | 5ml | CO | CH4O
solvent | H2O | 20 ml | O | H2O
product | (1S)-1-t-butoxycarbonylamino-1-isopropyl-1-(imidazol-2-yl)methane | 462 mg, 82% | C(C)(C)(C)OC(=O)N[C@H](C=1NC=CN1)C(C)C | C12H21N3O2
